US07244726B2
6-(4-Piperidinyloxy)-4H-benzo[1,4]oxazin-3-one, hydrochloride (D32)
A mixture of 6-(1-(tert-butyloxycarbonyl)piperidin-4-yloxy)-4H-benzo[1,4]oxazin-3-one (3.78 g, 10.9 mmol), ethereal hydrogen chloride (50 mL) and dichloromethane (20 mL) was heated at 40° C. for 2 h, then allowed to stir at 20° C. for 18 h. The resulting colourless solid was collected by filtration to give the title compound (2.72 g, 88%).

reactant | 6-(1-(tert-butyloxycarbonyl)piperidin-4-yloxy)-4H-benzo[1,4]oxazin-3-one | 10.9 mmol, 3.78 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC=1C=CC2=C(NC(CO2)=O)C1 | C18H24N2O5
reactant | hydrogen chloride | 50 mL | Cl | ClH
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 6-(4-Piperidinyloxy)-4H-benzo[1,4]oxazin-3-one, hydrochloride | 2.72 g, 88% | Cl.N1CCC(CC1)OC=1C=CC2=C(NC(CO2)=O)C1 | InChI=1S/C13H16N2O3.ClH/c16-13-8-17-12-2-1-10(7-11(12)15-13)18-9-3-5-14-6-4-9;/h1-2,7,9,14H,3-6,8H2,(H,15,16);1H
